US07265246B2
D. C-(4-Phenylfuran-3-yl)methylamine
Prepare a solution of 4-phenyl-3-formylfuran (1.36 g, 7.91 mmol) in methanol (35 mL). Add NH4OAc (6.1 g, 79.1 mmol) and NaCNBH3 (348 mg, 5.54 mmol). Stir the reaction mixture at room temperature under nitrogen for 2.5 days then concentrate the mixture, dilute with water (50 mL), basify with 1 N sodium hydroxide, and extract with methylene chloride (2×100 mL). Dry the organic phase (Na2SO4), filter, and concentrate. Perform flash chromatography on silica gel eluting with 9:1 ethyl acetate/MeOH followed by 100% MeOH to afford 200 mg of the title compound. 1H NMR (CDCl3) δ 7.52 (s, 1H), 7.30-7.46 (m, 6H), 3.87 (s, 2H).

reactant | 4-phenyl-3-formylfuran | 7.91 mmol, 1.36 g | C1(=CC=CC=C1)C=1C(=COC1)C=O | C11H8O2
reactant | NaCNBH3 | 5.54 mmol, 348 mg | [BH3-]C#N.[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | C-(4-Phenylfuran-3-yl)methylamine | 200 mg | C1(=CC=CC=C1)C=1C(=COC1)CN | C11H11NO
